US07858587B2
2,6-Difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)anisol
To a solution of 4-bromo-2,6-difluoro-anisol (3.0 g) in dry dioxane (50 mL) and under argon atmosphere is added bis(pinacolato)diboron (5.13 g), potassium acetate (3.94 g), 1,1′-bis(diphenylphosphino)-ferrocene (0.55 g) and 1,1′-bis(diphenylphosphino)-ferrocenedichloropalladium (II) (0.82 g). The flask is tightly sealed and heated to 80° C. for 16 h. Then the reaction mixture is concentrated under reduced pressure and the residue is taken up in ethyl acetate. The resulting mixture is washed with water, dried (sodium sulphate) and the solvent is evaporated. The remainder is purified by chromatography on silica gel (cyclohexane/ethyl acetate 1:0->2:1).

reactant | 4-bromo-2,6-difluoro-anisol | 3.0 g | BrC1=CC(=C(C(=C1)F)OC)F | C7H5BrF2O
reactant | bis(pinacolato)diboron | 5.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.94 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | 0.55 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2,6-Difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)anisol | FC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)OC | C13H17BF2O3
